US05223513
A mixture of 5-chloro-2-methylaminobenzophenone (1.23 g), diethyl malonate (1.6 g) and piperidine (0.1 ml) was heated for 3 hours at 170°-180° C. After cooling, the mixture was treated with isopropyl ether to give crystals, which were recrystallized from ethanol to afford ethyl 6-chloro-1,2-dihydro-1-methyl-2-oxo-4-phenyl-3-quinolinecarboxylate (1.25 g, 73.1%). mp 124°-125° C. The product was identical with the compound obtained in Reference Example 12.

reactant | 5-chloro-2-methylaminobenzophenone | 1.23 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)NC | C14H12ClNO
reactant | diethyl malonate | 1.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | ethyl 6-chloro-1,2-dihydro-1-methyl-2-oxo-4-phenyl-3-quinolinecarboxylate | 1.25 g, 73.1% | ClC=1C=C2C(=C(C(N(C2=CC1)C)=O)C(=O)OCC)C1=CC=CC=C1 | C19H16ClNO3
